US06362341B1
Trans-4-hydroxy-L-proline was treated with EtOH and HCl gas, and the mixture was evaporated to give trans-4-hydroxy-L-proline ethyl ester hydrochloride. This product was treated with TsCl in pyridine, to give after aqueous workup N-(toluene-4-sulfonyl)-trans-4-(O-(toluene-4-sulfonyl))-L-proline ethyl ester. This product was treated with PhSH and DBU in DMF to give after aqueous workup and flash chromatography on silica gel, N-(Toluene-4-sulfonyl)-cis-4-(phenylthio)-L-proline ethyl ester. This product was treated with NaOH in CH3OH and H2O, to give after acidification, extraction, drying with MgSO4, filtration and evaporation, N-(toluene-4-sulfonyl)-cis-4-(phenylthio)-L-proline. This product was treated with HCl.Phe-OMe, BOP, and NMM in DMF, to give, after aqueous workup and flash chromatography, N-(toluene-4-sulfonyl)-cis-4-(phenylthio)-Pro-Phe-OMe. This product was treated with NaOH in CH3OH and H2O, to give, after acidification, extraction, drying with MgSO4, filtration and evaporation, the title compound as a clear oil.

reactant | Trans-4-hydroxy-L-proline | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | HCl | Cl | ClH
reactant | EtOH | CCO | C2H6O
product | trans-4-hydroxy-L-proline ethyl ester hydrochloride | Cl.C(C)OC([C@H]1NC[C@@H](C1)O)=O | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)6-3-5(9)4-8-6;/h5-6,8-9H,2-4H2,1H3;1H/t5-,6+;/m1./s1
